US04070362
c. 7-Butylamino-5-methyl-3H-[1,2,3]-triazolo[4,5-b]pyridine-6-carboxylic acid ethyl ester
2.66 g. of 5,6-diamino-4-butylamino-2-methylnicotinic acid ethyl ester (0.01 mol.) are dissolved in 20 ml. of acetic acid and 5 ml. of water. The mixture is cooled to 5° with stirring. At this temperature, a solution of 0.9 g. of sodium nitrite in 5 ml. of water is showly added dropwise. Stirring is continued for an additional 8 hours. The solvent is distilled off and the residue treated with 20 ml. of water and extracted three times with 10 ml. portions of chloroform. The organic layers are dried with sodium sulfate, filtered and evaporated. The crystalline 7-butylamino-5-methyl-3H-[1,2,3]-triazolo-[4,5-b]pyridine-6-carboxylic acid ethyl ester remains and is recrystallized from methanol, yield 2.3 g. (83%), m.p. 188°-189°.

reactant | 5,6-diamino-4-butylamino-2-methylnicotinic acid ethyl ester | 0.01 mol | C(C)OC(C1=C(N=C(C(=C1NCCCC)N)N)C)=O | C13H22N4O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 7-Butylamino-5-methyl-3H-[1,2,3]-triazolo[4,5-b]pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1C)NN=N2)NCCCC | C13H19N5O2
